US07504408B2
N-[5-Chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine
This was prepared using the method described in example 4 using 4-chloro-7-(3-chloropropoxy)-6-methoxyquinazoline (400 mg, 1.39 mmol), 5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine (367 mg, 1.53 mmol) and sodium bis(trimethylsilyl)amide (1.0M in THF, 2.90 ml) in DMF (3 ml). The crude product was purified by column chromatography on silica using ethyl acetate as eluent. There was thus obtained the title compound (454 mg, 66%) as a pale yellow solid; NMR Spectrum:(CDCl3) 2.39 (quintet, 2H), 3.46 (s, 3H), 3.79 (t, 2H), 3.98 (s, 3H), 4.33 (t, 2H), 4.35 (s, 2H), 6.07 (s, 2H), 6.94 (s, 1H), 7.07 (s, 1H), 7.10 (s, 1H), 7.29 (s, 1H), 8.63 (s, 1H); Mass Spectrum: M+H+ 490.

reactant | 4-chloro-7-(3-chloropropoxy)-6-methoxyquinazoline | 1.39 mmol, 400 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C12H12Cl2N2O2
reactant | 5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine | 1.53 mmol, 367 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)N | C11H10ClNO3
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 2.90 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-[5-Chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine | 454 mg, 66% | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C23H21Cl2N3O5
